US06727264B1
1-BROMO-2-[(3-CHLOROPROPYL)SULFANYL]BENZENE:
Prepared by Procedure R and Scheme Z using 2-bromobenzenethiol and 1-bromo-3-chloropropane.

reactant | 2-bromobenzenethiol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-BROMO-2-[(3-CHLOROPROPYL)SULFANYL]BENZENE | BrC1=C(C=CC=C1)SCCCCl | C9H10BrClS
